US06001839
In a similar manner to Example 33, N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]benzenesulphonamide was reacted with boron tribromide in dichloromethane at -10° C. to give N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-hydroxyphenyl]benzenesulphonamide, m.p. 265-267° C. The structure was confirmed by 1H nmr and mass spectra.

reactant | N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-methoxyphenyl]benzenesulphonamide | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=CC=CC=C2)OC)C2CCCC2 | C24H25N5O3S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[4-(4-amino-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-hydroxyphenyl]benzenesulphonamide | NC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=CC=CC=C2)O)C2CCCC2 | C23H23N5O3S
